US08106190B2
Potassium carbonate and 2,2,6,6-tetramethylpiperidine-4-amine were added to a DMF solution of 2-fluoro-4-(trifluoromethyl)benzonitrile. After stirring at 60° C. for 12 hours, methyl iodide and potassium carbonate were added thereto, followed by stirring at room temperature for 1 day. By post-treating the reaction liquid, 2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]-4-(trifluoromethyl)benzonitrile was obtained.

reactant | Potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2,6,6-tetramethylpiperidine-4-amine | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | 2-fluoro-4-(trifluoromethyl)benzonitrile | FC1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F4N
reactant | methyl iodide | CI | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(1,2,2,6,6-pentamethylpiperidin-4-yl)amino]-4-(trifluoromethyl)benzonitrile | CN1C(CC(CC1(C)C)NC1=C(C#N)C=CC(=C1)C(F)(F)F)(C)C | C18H24F3N3
